US09328106B2
To a solution of 2-methyl-4-nitro-pyrazole-3-carbaldehyde (600 mg, 3.87 mmol) in CDCl3 (20 mL) was added Danishefsky's diene (836 mg, 5.81 mmol) and Resolve-Al™ EuFOD (157 mg, 0.39 mmol). The reaction mixture was heated at 80° C. in a sealed tube for 24 hr. Additional Resolve-Al™ EuFOD (250 mg, 0.62 mmol) was added and heating continued for another 24 hr. The reaction mixture was concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 2-(1-methyl-4-nitro-1H-pyrazol-5-yl)-2H-pyran-4(3H)-one a yellow solid (710 mg, 82%). A portion of this solid (300 mg, 1.35 mmol) was dissolved in THF (10 mL) under nitrogen and cooled to −78° C. A solution of L-selectride (1 M in THF, 1.48 mL, 1.48 mmol) was added dropwise and the mixture was stirred at −78° C. for 30 min. The mixture was quenched with MeOH (2 mL) and warmed to room temperature. EtOAc (30 mL) and brine (30 mL) were added and the layers separated. The aqueous layer was extracted with EtOAc (3×20 mL) then the combined organic layers were washed with brine (30 mL), separated, dried over Na2SO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 2-(2-methyl-4-nitro-pyrazol-3-yl)tetrahydropyran-4-one as a colourless solid (224 mg, 61% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.06 (s, 1H), 5.70 (dd, J=11.8, 3.3 Hz, 1H), 4.49 (ddd, J=11.8, 7.5, 1.3 Hz, 1H), 4.15 (s, 3H), 3.94-3.86 (m, 1H), 2.83-2.63 (m, 3H), 2.58-2.50 (m, 1H).

reactant | 2-methyl-4-nitro-pyrazole-3-carbaldehyde | 3.87 mmol, 600 mg | CN1N=CC(=C1C=O)[N+](=O)[O-] | C5H5N3O3
reactant | Danishefsky's diene | 5.81 mmol, 836 mg | CO/C=C/C(=C)O[Si](C)(C)C | C8H16O2Si
reactant | Resolve-Al | CC(C)(C)C(=O)CC(=O)C(C)(C)C.CC(C)(C)C(=O)CC(=O)C(C)(C)C.CC(C)(C)C(=O)CC(=O)C(C)(C)C.[Eu]
product | 2-(1-methyl-4-nitro-1H-pyrazol-5-yl)-2H-pyran-4(3H)-one | CN1N=CC(=C1C1OC=CC(C1)=O)[N+](=O)[O-] | C9H9N3O4
